US06787539B2
To a solution of 0.6 g (1.8 mmol) 2-methylsulfanyl-4-o-tolyloxy-pyrimidine-5-carboxylic acid 3,5-dichloro-benzylamide in 20 ml N,N-dimethylformamide 0.096 g (2.4 mmol) sodiumhydride (60% dispersion in mineraloil) was added and the mixture stirred for 1 h. After the addition of 0.18 ml (2.9 mmol) methyl iodide at 0°, the reaction mixture was stirred for 3 hrs. at RT. The reaction mixture was distributed between 50 ml H2O, 50 ml brine and 50 ml CH2Cl2. The phases were separated, and the aqueous layer extracted twice with 50 ml CH2Cl2. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/ethyl acetate 19:1) to give 0.5 g (61%) 2-methylsulfanyl-4-o-tolyloxy-pyrimidine-5-carboxylic acid (3,5-dichloro-benzyl)-methyl-amide as a light yellow oil, MS (EI): 447.1 (M+).

reactant | 2-methylsulfanyl-4-o-tolyloxy-pyrimidine-5-carboxylic acid 3,5-dichloro-benzylamide | 1.8 mmol, 0.6 g | ClC=1C=C(CNC(=O)C=2C(=NC(=NC2)SC)OC2=C(C=CC=C2)C)C=C(C1)Cl | C20H17Cl2N3O2S
reactant | N,N-dimethylformamide | 2.4 mmol, 20 ml, 0.096 g | CN(C=O)C | C3H7NO
reactant | methyl iodide | 2.9 mmol, 0.18 ml | CI | CH3I
reactant | H2O | 50 ml | O | H2O
solvent | brine | 50 ml | [Cl-].[Na+].O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-methylsulfanyl-4-o-tolyloxy-pyrimidine-5-carboxylic acid (3,5-dichloro-benzyl)-methyl-amide | 0.5 g, 61% | ClC=1C=C(CN(C(=O)C=2C(=NC(=NC2)SC)OC2=C(C=CC=C2)C)C)C=C(C1)Cl | C21H19Cl2N3O2S
